US07354942B2
Methyl 2,6-dichloroisonicotinate (5.0 g, 24.3 mmol), methyl(methylsulfonyl)amine (3.18 g, 29.12 mmol), potassium phosphate (7.22 g, 34.0 mmol), Xantphos (0.87 g, 1.50 mmol) and tris(dibenzylideneacetone)dipalladium (0.68 g, 0.51 mmol) were added to a dry, argon flushed flask. Dioxane (195 mL) was added, the solution degassed with argon and the reaction was heated to 100° C. for 16 h. The reaction was cooled to rt, filtered through celite and evaporated in vacuo. Flash chromatography (silica, 0-50% EtOAc/CH2Cl2) gave methyl 2-chloro-6-[methyl(methylsulfonyl)amino]isonicotinate as a yellow oil: 1H NMR (400 MHz, CDCl3) δ 7.88 (s, 1H), 7.68 (s, 1H), 3.96 (s, 3H), 3.44 (s, 3H), 3.11 (s, 3H).

reactant | Methyl 2,6-dichloroisonicotinate | 24.3 mmol, 5.0 g | ClC=1C=C(C(=O)OC)C=C(N1)Cl | C7H5Cl2NO2
reactant | methyl(methylsulfonyl)amine | 29.12 mmol, 3.18 g | CNS(=O)(=O)C | C2H7NO2S
reactant | potassium phosphate | 34.0 mmol, 7.22 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Xantphos | 1.50 mmol, 0.87 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.51 mmol, 0.68 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Dioxane | 195 mL | O1CCOCC1 | C4H8O2
product | methyl 2-chloro-6-[methyl(methylsulfonyl)amino]isonicotinate | ClC=1C=C(C(=O)OC)C=C(N1)N(S(=O)(=O)C)C | C9H11ClN2O4S
